US07985755B2
5-[4-(2-Trifluoromethoxy-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-(trifluoromethoxy)benzyl bromide (94.4 mg; 0.37 mmol) to obtain 45.5 mg. (54% yield). 1H NMR (400 MHz, DMSO-d6) δ 12.4 (br s, 1H), 10.0 (br s, 1H), 8.94 (br s, 1H), 7.69 (m, 3H), 7.42 (m, 3H), 7.27 (d, J=7.6 Hz, 1H), 7.23 (d, J=8.4 Hz, 1H), 3.65 (s, 2H), 3.04 (d, J=10.4 Hz, 2H), 2.89 (m, 4H), 2.36 (t, J=11.2 Hz, 2H). ESIMS+419.5 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-(trifluoromethoxy)benzyl bromide | 0.37 mmol, 94.4 mg | FC(OC1=C(CBr)C=CC=C1)(F)F | C8H6BrF3O
product | 5-[4-(2-Trifluoromethoxy-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 54% yield | FC(OC1=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC=C1)(F)F | C20H21F3N6O
